US07947693B2
c) (2R)-2-{[2-Amino-5-({(1S)-1-[3-(methylsulfonyl)phenyl]ethyl}thio)[1,3]thiazolo[4,5-d]pyrimidin-7-yl]amino}-4-methylpentan-1-ol
The title compound was prepared from (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol (16.5 g, 55.3 mmol) and 1-[(1R)-1-chloroethyl]-3-(methylsulfonyl)benzene (12.1 g, 55.3 mmol) according to general method A.

reactant | (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | 55.3 mmol, 16.5 g | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S)N1 | C11H17N5OS2
reactant | 1-[(1R)-1-chloroethyl]-3-(methylsulfonyl)benzene | 55.3 mmol, 12.1 g | Cl[C@H](C)C1=CC(=CC=C1)S(=O)(=O)C | C9H11ClO2S
product | (2R)-2-{[2-Amino-5-({(1S)-1-[3-(methylsulfonyl)phenyl]ethyl}thio)[1,3]thiazolo[4,5-d]pyrimidin-7-yl]amino}-4-methylpentan-1-ol | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S[C@@H](C)C2=CC(=CC=C2)S(=O)(=O)C)N1 | C20H27N5O3S3
